US08912188B2
To solution of methyl 3-(isopropyl(methyl)amino)-2-(3-(trifluoromethyl)-1H-pyrazol-4-yl)quinoxaline-6-carboxylate (80.0 mg, 0.20 mmol) in methanol (30 mL) was added sodium hydroxide (24 mg, 0.60 mmol) and water (1 mL) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (30 mL) and then adjusted to pH 5 with hydrochloric acid (3N). The solids were collected by filtration, dried in an oven under reduced pressure to afford 3-(isopropyl(methyl)amino)-2-(3-(trifluoromethyl)-1H-pyrazol-4-yl)quinoxaline-6-carboxylic acid as a light yellow solid (64.0 mg, 79%).

reactant | methyl 3-(isopropyl(methyl)amino)-2-(3-(trifluoromethyl)-1H-pyrazol-4-yl)quinoxaline-6-carboxylate | 0.20 mmol, 80.0 mg | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C(=NNC1)C(F)(F)F)C | C18H18F3N5O2
reactant | sodium hydroxide | 0.60 mmol, 24 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 3-(isopropyl(methyl)amino)-2-(3-(trifluoromethyl)-1H-pyrazol-4-yl)quinoxaline-6-carboxylic acid | 64.0 mg, 79% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1C(=NNC1)C(F)(F)F)C | C17H16F3N5O2
